US05410054
To a solution of 3-hydroxyphenylalanine methyl ester (1 g) in CH2Cl2 (20 mL) at 0° C. was added triethylamine (2 mL) followed by DMAP (527 mg) and benzoyl chloride (1.1 mL). When addition was complete, the mixture was stirred for 17 hr at r.t. and then NH4OAc buffer was added. The aqueous phase was extracted with CH2Cl2 (3×) and the combined organics were washed with buffer, brine, dried (MgSO4) and concentrated. The residue was dissolved in MeOH (15 mL) and THF (1.5 mL) and NaOMe (1M in MeOH; 2.4 mL) was added at 0° C. After 2.5 hr, saturated aq. NH4Cl was added and the aqueous phase extracted with EtOAc (3×). The combined organics were washed with NH4OAc buffer (2×), H2O, brine, dried (Na2SO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/EtOAc (1:1)) provided N-benzoyl-3-hydroxyphenylalanine methyl ester as a foam. A portion of this material (1.25 g), K2CO3 (866 mg) and methyl iodide (312 μL) in DMF (12 mL) were stirred at r.t. for 18 hr and then H2O (150 mL) was added. The mixture was extracted with EtOAc (3×) and the combined organics washed with NH4OAc buffer, H2O (2×) and brine, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/EtOAc (55:45)) provided N-benzoyl-3-methoxyphenylalanine methyl ester as a gum. A portion of this material (950 mg) was dissolved in refluxing xylene (25 mL) and P2O5 (10.9 g) was added periodically over 5 hr. After refluxing for 5.5 hr, the mixture was cooled to r.t. and the xylene was decanted. The residual solid was dissolved in cold H2O (600 mL) and neutralized with solid NaHCO3. The aqueous mixture was extracted with EtOAc (3×) and the combined organics were washed with NH4OAc buffer (2×), brine, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel; hexane/EtOAc (3:2)) provided the title compound as a gum.

reactant | 3-hydroxyphenylalanine methyl ester | 1 g | COC([C@@H](N)CC1=CC(=CC=C1)O)=O | C10H13NO3
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 527 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-benzoyl-3-hydroxyphenylalanine methyl ester | COC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CC(=CC=C1)O)=O | C17H17NO4
